US05705499
e) 8-Bromo-2-chloro-5,11-dihydro-11-ethyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
To a solution of N-(2,6-dichloro-3-pyridinyl)-5-bromo-2-ethylamino-3-pyridinecarboxamide (5.9 g, 15 mmol) in 30 mL of pyridine at 50° C. under argon was added by syringe a 1.0M solution of sodium hexamethyldisilazide in tetrahydrofuran (31.5 mL, 31.5 mmol). After 10 min, the reaction mixture was diluted with ice water and allowed to stir for 2 hours. The resultant orange-yellow precipitate was collected by suction filtration and air-dried to give 4.9 g of the title compound.

reactant | N-(2,6-dichloro-3-pyridinyl)-5-bromo-2-ethylamino-3-pyridinecarboxamide | 15 mmol, 5.9 g | ClC1=NC(=CC=C1NC(=O)C=1C(=NC=C(C1)Br)NCC)Cl | C13H11BrCl2N4O
reactant | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | tetrahydrofuran | 31.5 mmol, 31.5 mL | O1CCCC1 | C4H8O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 8-Bromo-2-chloro-5,11-dihydro-11-ethyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 4.9 g | BrC1=CC2=C(N(C3=C(NC2=O)C=CC(=N3)Cl)CC)N=C1 | C13H10BrClN4O
